US08957080B2
Into a 500 mL, 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of 1,3-difluoro-2-(4-nitrophenoxy)benzene (20 g, 79.62 mmol, 1.00 equiv) in methanol (200 mL), Raney Nickel (2 g). A solution of hydrazine hydrate (12.67 g) in methanol (50 mL) was added dropwise with stirring in 15 min. The resulting solution was stirred for 12 h at 25° C., then filtrated and the filtrate was concentrated under vacuum. The residue was diluted with f ethyl acetate, washed with water and brine, and dried over anhydrous sodium sulfate and concentrated under vacuum to give 16 g (91%) of 4-(2,6-difluorophenoxy)aniline as black oil.

reactant | 1,3-difluoro-2-(4-nitrophenoxy)benzene | 79.62 mmol, 20 g, 1.00 equiv | FC1=C(C(=CC=C1)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H7F2NO3
reactant | hydrazine hydrate | 12.67 g | O.NN
solvent | methanol | 200 mL | CO | CH4O
catalyst | Raney Nickel | 2 g | [Ni] | Ni
solvent | methanol | 50 mL | CO | CH4O
product | 4-(2,6-difluorophenoxy)aniline | 16 g, 91% | FC1=C(OC2=CC=C(N)C=C2)C(=CC=C1)F | C12H9F2NO
